US05872136
Step C: 1-(3-Phenylpyrid-6-ylmethyl)-5-(4-cyanobenzyl) imidazole hvdrochloride salt
To a solution of 3-phenyl-6-hydroxymethylpyridine (192 mg, 1.04 mmol) and diisopropylethylamine (0.360 mL, 2.07 mmol) in dichloromethane (8 mL) at -78° C. was added trifluoromethanesulfonic anhydride (0.180 mL, 1.07 nmuol) and the mixture stirred at -78° C. for 1 hour. To this mixture was added a solution of 1-trityl-4-(4-cyanobenzyl)imidazole (441 mg, 1.04 mmol) in dichloromethane (9 mL). The mixture was allowed to warm to ambient temperature and stirred for 4 hours. The solvent was evaporated in vacuo. The residue was dissolved in methanol (10 mL), heated at reflux for 1 hour, and the solvent evaporated in vacuo. The residue was partitioned between dichloromethane and sat. aq. NaHCO3 solution. The organic layer was dried, (Na2SO4) and the solvent evaporated in vacuo. The residue was chromatographed (Silica gel, EtOAc and then 5% MeOH in CH2Cl2). The amine was converted to the HCl salt by treatment with 1.0M HCl in aqueous acetonitrile. Evaporation of the solvent in vacuo afforded the title compound as a white solid. FAB HRMS exact mass calcd for C23H19N4 351.160972 (MH+); found 351.161206.

reactant | 3-phenyl-6-hydroxymethylpyridine | 1.04 mmol, 192 mg | C1(=CC=CC=C1)C=1C=NC(=CC1)CO | C12H11NO
reactant | diisopropylethylamine | 2.07 mmol, 0.360 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.180 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1-trityl-4-(4-cyanobenzyl)imidazole | 1.04 mmol, 441 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1=CC=C(C=C1)C#N | C30H23N3
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | 1-(3-Phenylpyrid-6-ylmethyl)-5-(4-cyanobenzyl) imidazole hvdrochloride salt | Cl.C1(=CC=CC=C1)C=1C=NC(=CC1)CN1C=NC=C1CC1=CC=C(C=C1)C#N | InChI=1S/C23H18N4.ClH/c24-13-19-8-6-18(7-9-19)12-23-15-25-17-27(23)16-22-11-10-21(14-26-22)20-4-2-1-3-5-20;/h1-11,14-15,17H,12,16H2;1H
